US03991106
Step D: Preparation of 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)pentane
1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)-2-pentyne (13.4 g., 0.04 mole) is dissolved in ethyl acetate (100 ml.). 5% Palladium on carbon is added and the mixture is hydrogenated on the Parr apparatus at an initial pressure of 41 lbs./in2 and 25°. When 0.08 mole of hydrogen is absorbed, the catalyst is removed by filtration and the solvent is evaporated under vacuum to give the title compound as a light orange residual oil, yield 12.90 g.

reactant | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)-2-pentyne | 0.04 mole, 13.4 g | O1C(CCCC1)OCC#CC(COC1=CC=C(C=C1)F)OC(C)=O | C18H21FO5
reactant | hydrogen | 0.08 mole | [H][H] | H2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | [Pd] | Pd
product | 1-(2-Tetrahydropyranyloxy)-4-acetoxy-5-(4-fluorophenoxy)pentane | O1C(CCCC1)OCCCC(COC1=CC=C(C=C1)F)OC(C)=O | C18H25FO5
